US05763615
Preparation of 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-α-methyl-1H-benzotriazol-1-acetaldehyde (2.4-dinitrophenyl)hydrazone
A solution of 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl) oxy]-α-methyl-1H-benzotriazol-1-acetaldehyde (0.0294 mole) in ethanol is added to a solution of 2,4-dinitrophenylhydrazine (7 g, 0.035 mole) and conc. H2SO4 (35 ml, 0.63 mole) in H2O at 50° C., allowed to come to room temperature and filtered. The solid filter cake is recrystallized from aqueous acetic acid and from ethanol to afford the title compound, mp 148°-149° C., identified by elemental and NMR analyses.

reactant | 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl) oxy]-α-methyl-1H-benzotriazol-1-acetaldehyde | 0.0294 mole | ClC1=C(C(=CC(=C1)OC=1C=CC2=C(N(N=N2)C(C=O)C)C1)F)C(F)(F)F | C16H10ClF4N3O2
reactant | 2,4-dinitrophenylhydrazine | 0.035 mole, 7 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])NN | C6H6N4O4
reactant | H2SO4 | 0.63 mole, 35 ml | OS(=O)(=O)O | H2O4S
solvent | ethanol | C(C)O | C2H6O
solvent | H2O | O | H2O
product | 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-α-methyl-1H-benzotriazol-1-acetaldehyde (2.4-dinitrophenyl)hydrazone | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])NN=CC(N1N=NC2=C1C=C(C=C2)OC2=CC(=C(C(=C2)F)C(F)(F)F)Cl)C | C22H14ClF4N7O5
